US03978129
6-Chloro-N,N-dimethyl-3-phenylhexylamine Hydrochloride
A solution of 10 g. (0.037 mole) of 6-chloro-N,N-dimethyl-3-phenyl-3 -hexenylamine hydrochloride in 150 ml. of 95% ethanol was hydrogenated using palladium on carbon catalyst. Hydrogenation was complete after 15 minutes at room temperature. The catalyst was removed by filtration and the filtrate was evaporated to a solid. Recrystallization of the solid from isobutyl methyl ketone gave 7 g. (70%) of a hygroscopic solid.

reactant | 6-chloro-N,N-dimethyl-3-phenyl-3 -hexenylamine hydrochloride | 0.037 mole | Cl.ClCCC=C(CCN(C)C)C1=CC=CC=C1
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 6-Chloro-N,N-dimethyl-3-phenylhexylamine Hydrochloride | Cl.ClCCCC(CCN(C)C)C1=CC=CC=C1 | InChI=1S/C14H22ClN.ClH/c1-16(2)12-10-14(9-6-11-15)13-7-4-3-5-8-13;/h3-5,7-8,14H,6,9-12H2,1-2H3;1H
